US08703997B2
The invention relates to a process for preparation and distillative workup of diphenylmethane diisocyanate, referred to hereinafter as MDI for short, proceeding from a benzene-comprising feed stream, in which benzene is nitrated to nitrobenzene which is hydrogenated to aniline, aniline is reacted with formaldehyde to give methylenediphenylamine (MDA) and MDA is phosgenated to MDI. In this process, not the pure products but at first product mixtures are obtained in each process step, which are purified before further processing.

reactant | diphenylmethane diisocyanate | [N-]=C=O.[N-]=C=O.C1(=CC=CC=C1)CC1=CC=CC=C1
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | formaldehyde | C=O | CH2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | MDA | C=C1C(C=CC=C1)NC1=CC=CC=C1 | C13H13N
